US06716872B2
5-(Methoxyphenylmethylene)-pyrrolidine-2,3,4-trione 3-oxime
An aqueous solution of 1.1 mmol (0.075 g) sodium nitrite was added dropwise to an ice-cooled solution of 2 mmol 4-hydroxy-5-(methoxyphenyl-methylene)-1,5-dihydropyrrol-2-one (prepared in accordance with H. Poschenrieder et al (Arch. Pharm. Pharm. Med. Chem. 1998, 331, 389-394) and H. -D. Stachel et al (J. Heterocycl. Chem. 1980, vol. 17, pp. 1195-1199 and Liebigs Ann. Chem. 1985, pp. 1692-1696)) in 5 ml glacial acetic acid, while stirring. The resulting solution was then stirred at room temperature for 30 minutes and concentrated in vacuo. The residue is purified by recrystallization from ethanol. The yield of 5-(methoxyphenylmethylene)-pyrrolidine-2,3,4-trione 3-oxime was 60%, with a melting point of 174° C.

reactant | sodium nitrite | 1.1 mmol, 0.075 g | N(=O)[O-].[Na+]
reactant | 4-hydroxy-5-(methoxyphenyl-methylene)-1,5-dihydropyrrol-2-one | 2 mmol | OC1=CC(NC1=C(C1=CC=CC=C1)OC)=O | C12H11NO3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-(Methoxyphenylmethylene)-pyrrolidine-2,3,4-trione 3-oxime | COC(=C1C(C(C(N1)=O)=NO)=O)C1=CC=CC=C1 | C12H10N2O4
